US05859007
2-[3-(1H-Indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a stirring solution of 1.0 g of 2-[3-(1-tert-butoxycarbonyl-1H-Indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Intermediate 75, in 10 mL of methanol is added 2.0 g of solid K2CO3. The reaction mixture is stirred 2 h at RT and then 15 mL H2O is added and the reaction mixture stirred 15 min at RT. The resulting white precipitate is filtered, washed with 15 mL of H2O, and dried under vacuum at 90° C. to afford 668 mg of the title compound as a white solid: mp 161°-5° C.; 1H NMR (CDCl3, 400 MHz) δ10.38 (s, br, 1H), 8.55 (s, 1H), 8.48 (m, 1H), 7.74 (d, 1H, J=7.0), 7.42-6.93 (m, 13H), 6.62 (d, 1H, J=8.2), 5.09 (m, 1H), 4.49 (m, 1H), 4.08 (m, 1H), 3.85 (s, 3H), 3.05 (d, 2H, AB quartet, J=15.9), 1.67 (s, 3H), 1.13 (m, 6H); low resolution MS (FAB)m/e 603 (MH+), 424; Anal. (C35H34N6O4) Calcd. C, 69.75; H, 5.69; N, 13.94 Found C, 66.54; H, 5.549; N, 13.19.

reactant | 2-[3-(1-tert-butoxycarbonyl-1H-Indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 1.0 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O)C | C40H42N6O6
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 15 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 2-[3-(1H-Indazol-3-ylmethyl)-3-methyl-2,4-dioxo-5-pyridin-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 668 mg | N1N=C(C2=CC=CC=C12)CC1(C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C=2C=NC=CC2)=O)C | C35H34N6O4
